US06127388
Step 1: 1-tert-Butyloxycarbonyl-4-(N-benzyl-N-methylamino)piperidine
To a stirred solution of 1-tert-butyloxycarbonyl-4-piperidone (3.30 g, 16.5 mmol) and benzylamine (1.64 ml, 15.0 mmol) in a mixture of methanol (150 ml) and glacial acetic acid (3.4 ml, 60 mmol) was added sodium cyanoborohydride (1.04 g, 16.5 mmol), and the resulting mixture was stirred at room temperature for 2 hours 15 minutes. A solution of formaldehyde (38% w/v aqueous solution; 1.42 ml) in methanol (5 ml) was added and stirring was continued for 16 hours. 4N Sodium hydroxide (35 ml) was added and the methanol was removed under vacuum. The residue was diluted with water (50 ml) and products were extracted with diethyl ether (2×300 ml). The combined organic phases were washed with brine (50 ml), dried (Na2SO4) and concentrated. Flash chromatography of the residue (silica gel, dichloromethane-methanol-ammonia, 97:3:0.2) followed by repurification of impure fractions on alumina (activity III, dichloromethane) afforded 3.98 g (87.4%) of the title compound as a colourless thick oil; δH (360 MHz, CDCl3) 1.46 (9H, s), 1.44-1.56 (2H, m), 1.76-1.85 (2H, m), 2.20 (3H, s), 2.52-2.76 (3H, m), 3.57 (2H, s), 4.10-4.22 (2H, m), 7.20-7.36 (5H, m); m/e (ES) 305 (M+ +1).

reactant | 1-tert-butyloxycarbonyl-4-piperidone | 16.5 mmol, 3.30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | benzylamine | 15.0 mmol, 1.64 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 60 mmol, 3.4 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 16.5 mmol, 1.04 g | C(#N)[BH3-].[Na+]
reactant | formaldehyde | 1.42 ml | C=O | CH2O
reactant | Sodium hydroxide | 4N, 35 ml | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 1-tert-Butyloxycarbonyl-4-(N-benzyl-N-methylamino)piperidine | 3.98 g, 87.4% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C)CC1=CC=CC=C1 | C18H28N2O2
